US06310056B1
To a solution of 5.0 g of 7-vinylimidazo[5,1-b]thiazole in 40 ml of ethanol and 8 ml of water was added 2.0 g of 10% Pd-C, and the mixture was stirred under the atmosphere of hydrogen at room temperature overnight. The catalyst was removed by filtration, and the filtrate was concentrated to a small volume. The concentrate was diluted with 10 ml of a saturated aqueous sodium hydrogen carbonate solution, and extracted with 100 ml of ethyl acetate. The organic layer was washed with aqueous saline and dried over anhydrous magnesium sulfate, and the solvent was removed under reduced pressure. The residue thus obtained was purified by column chromatography on silica gel (dichloromethane:ethyl acetate=3:2) to give 1.27 g of 7-ethylimidazo[5,1-b]thiazole.

reactant | 7-vinylimidazo[5,1-b]thiazole | 5.0 g | C(=C)C=1N=CN2C1SC=C2 | C7H6N2S
reactant | hydrogen | [H][H] | H2
solvent | ethanol | 40 ml | C(C)O | C2H6O
solvent | water | 8 ml | O | H2O
catalyst | Pd-C | 2.0 g | [Pd] | Pd
product | 7-ethylimidazo[5,1-b]thiazole | 1.27 g | C(C)C=1N=CN2C1SC=C2 | C7H8N2S
